US05223516
a) (S)-α-(1H-Tetrazol-5-yl)-1H-indol-3-ethanamine, hydrochloride
Ethyl acetate (30 mL) was saturated with HCl gas at 0° C. at which point anisole (7.4 mL) was added followed by (S)-[2-(1H-indol-3-yl)-1-(1H-tetrazol-5-yl)ethyl]carbamic acid, 1,1-dimethylethyl ester (1.24 g., 3.77 mmol.) dissolved in ethyl acetate (7 mL). The resulting solution was stirred at 0° for one hour at which time TLC showed that no starting material remained. The reaction mixture was evaporated and chased with methylene chloride and ether and finally pumped to 0.95 g. of (S)-α-(1H-tetrazol-5-yl)-1H-indol-3-ethanamine, hydrochloride as a light brown solid.

reactant | HCl | Cl | ClH
reactant | anisole | 7.4 mL | C1(=CC=CC=C1)OC | C7H8O
reactant | (S)-[2-(1H-indol-3-yl)-1-(1H-tetrazol-5-yl)ethyl]carbamic acid, 1,1-dimethylethyl ester | 3.77 mmol, 1.24 g | N1C=C(C2=CC=CC=C12)C[C@@H](C1=NN=NN1)NC(OC(C)(C)C)=O | C16H20N6O2
solvent | ethyl acetate | 7 mL | C(C)(=O)OCC | C4H8O2
solvent | Ethyl acetate | 30 mL | C(C)(=O)OCC | C4H8O2
product | (S)-α-(1H-Tetrazol-5-yl)-1H-indol-3-ethanamine, hydrochloride | Cl.N1N=NN=C1[C@H](CC1=CNC2=CC=CC=C12)N | InChI=1S/C11H12N6.ClH/c12-9(11-14-16-17-15-11)5-7-6-13-10-4-2-1-3-8(7)10;/h1-4,6,9,13H,5,12H2,(H,14,15,16,17);1H/t9-;/m0./s1
